US05225431
(a) 3-(4-Nitrobenzyl)imidazolidin-2,4-dione
A solution of hydantoin (5.0 g, Aldrich) in 2N aqu. NaOH (25 ml) was stirred at room temperature for 1 hour, then a solution of p-nitrobenzyl bromide (10.8 g, Aldrich) in methanol (50 ml) was added and the mixture refluxed for 16 hours. The mixture was cooled and the pale yellow precipitate filtered off, dried in vacuo, and recrystalised from ethanol to give the desired product as pale yellow crystals (6.8 g).

reactant | hydantoin | 5.0 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | NaOH | 25 ml | [OH-].[Na+]
reactant | p-nitrobenzyl bromide | 10.8 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | methanol | 50 ml | CO | CH4O
product | 3-(4-Nitrobenzyl)imidazolidin-2,4-dione | 6.8 g | [N+](=O)([O-])C1=CC=C(CN2C(NCC2=O)=O)C=C1 | C10H9N3O4
